US09260436B2
4.5 ml of a 28% aqueous ammonia solution was added to a mixture of 500 mg of 4-chloro-2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline, 8 ml of THF and 5 ml of acetonitrile, and the mixture was stirred at 50° C. for 2 hours. Water was added to the cooled reaction mixture, and the mixture was extracted with t-butyl methyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was applied to a silica gel column chromatography to obtain 396 mg of 4-amino-2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline (Compound of Present Invention 5).

reactant | ammonia | N | H3N
reactant | 4-chloro-2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline | 500 mg | ClC1=NC(=NC2=CC(=CC=C12)C(F)(F)F)C1=C(C=CC=C1)SCC | C17H12ClF3N2S
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 4-amino-2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline | 396 mg | NC1=NC(=NC2=CC(=CC=C12)C(F)(F)F)C1=C(C=CC=C1)SCC | C17H14F3N3S
